US08877968B2
18-1-2 Piperidin-1-yl-(1-trityl-1H-imidazol-4-yl-methylene)amine
To a solution containing 342 mg (1.01 mmol) of 1-trityl-1H-imidazole-4-carbaldehyde and 100 mg (1.0 mmol) of piperidin-1-ylamine are added 3.5 mL of ethanol and 1.5 mL of dichloromethane. The reaction medium is heated at 80° C. for 1 hour. The solvents are evaporated off and 450 mg of a powder are obtained and used in the following step without further purification.

reactant | 1-trityl-1H-imidazole-4-carbaldehyde | 1.01 mmol, 342 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | piperidin-1-ylamine | 1.0 mmol, 100 mg | N1(CCCCC1)N | C5H12N2
reactant | ethanol | 3.5 mL | C(C)O | C2H6O
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Piperidin-1-yl-(1-trityl-1H-imidazol-4-yl-methylene)amine | 450 mg | N1(CCCCC1)N=CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4
